US07087599B2
A solution of 9a-butyl-7-hydroxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (60 mg, 0.22 mmol) and hydroxyl amine hydrochloride (77 mg, 1.11 mmol) in anhydrous pyridine (0.5 mL) was stirred under a nitrogen atmosphere at room temperature for 4.3 hours and then heated in an oil bath at 60° C. for 30 minutes. The reaction mixture was evaporated under vacuum to an oil which was taken up in EtOAc (10 mL), washed with 1N HCl (2×6 ml), water (6 mL) and brine (6 ml), dried over MgSO4, filtered, and evaporated under vacuum. The residue was lyophilized from benzene (3 mL) to afford (3E)-9a-butyl-7-hydroxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one oxime as an amorphous solid.

reactant | 9a-butyl-7-hydroxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.22 mmol, 60 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C)O | C18H22O2
reactant | hydroxyl amine hydrochloride | 1.11 mmol, 77 mg | Cl.ON
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | (3E)-9a-butyl-7-hydroxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one oxime | C(CCC)C12CC3=CC(=CC=C3C2=C(/C(/CC1)=N/O)C)O | C18H23NO2
